US05877174
A mixture of 0.25 g of diphenylmethyl α-[4-[4-(4-benzyloxycarbonylamidinophenoxy)butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetate, 0.13 g of 5% palladium-carbon, 0.34 ml of 1N hydrochloric acid and 5 ml of N,N-dimethylformamide was subjected to hydrogenation at ordinary temperature and atmospheric pressure for 3 hours. Then, the pallasium-carbon was filtered off and the filtrate was concentrated under reduced pressure. To the resulting residue were added 2 ml of ethyl acetate, 5 ml of water and 30 mg of sodium hydrogencarbonate to dissolve the residue. The aqueous layer was separated and then purified by a reversed phase column chromatography (eluent: a 50% aqueous acetonitrile solution) to obtain 0.10 g of α-[4-[4-(4-amidinophenoxy)butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetic acid as colorless crystals.

reactant | diphenylmethyl α-[4-[4-(4-benzyloxycarbonylamidinophenoxy)butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetate | 0.25 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(OCCCCN2C(C(N(CC2)C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C=C1 | C44H42N4O7
reactant | hydrochloric acid | 1N, 0.34 ml | Cl | ClH
catalyst | palladium-carbon | 0.13 g | [C].[Pd]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | α-[4-[4-(4-amidinophenoxy)butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetic acid | 0.10 g | C(N)(=N)C1=CC=C(OCCCCN2C(C(N(CC2)C(C(=O)O)C2=CC=CC=C2)=O)=O)C=C1 | C23H26N4O5
